US04005218
A solution of 4.9 parts of 2-hydroxy-3,5-diiodobenzoyl chloride and 3.7 parts of 4-amino-2-(trifluoromethyl)-α-[3-trifluoromethyl)phenyl]benzeneacetonitrile in 60 parts of 1,4-dioxane is stirred and refluxed for 10 minutes. The reaction mixture is evaporated. The residue is boiled in methylbenzene for 10 minutes. After cooling to room temperature, the precipitated product is filtered off, yielding N-[4-{α-cyano-α-[3-trifluoromethyl)phenyl]methyl-}3-(trifluoromethyl)phenyl]-2-hydroxy-3,5-diiodobenzamide; mp. 206.3° C.

reactant | 2-hydroxy-3,5-diiodobenzoyl chloride | OC1=C(C(=O)Cl)C=C(C=C1I)I | C7H3ClI2O2
reactant | benzeneacetonitrile | C1(=CC=CC=C1)CC#N | C8H7N
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 2-hydroxy-3,5-diiodobenzamide | OC1=C(C(=O)N)C=C(C=C1I)I | C7H5I2NO2
